US06455528B1
(1) Synthesis of 1-(2,4,6-Trifluorophenyl)piperazine Dihydrochloride
To a solution of 2,4,6-trifluoroaniline (4.4 g) an bis(2-chloroethyl)amine hydrochloride (6.4 g) in water (4.2 ml) was added dropwise a solution of sodium carbonate (3.8 g) in water (8.9 ml) over 40 min under reflux under heating and the mixture was further refluxed under heating for 5.5 hr. To the reaction mixture was added an aqueous solution (8.9 ml) of sodium hydroxide (3.6 g) and the mixture was further refluxed under heating for 2.5 hr. The reaction mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated to give a dark brown oil. The oil was subjected to silica gel column chromatography (developing solvent; chloroform:methanol=9:1) to give the title compound (0.61 g) as a pale-brown solid.

reactant | 2,4,6-trifluoroaniline | 4.4 g | FC1=C(N)C(=CC(=C1)F)F | C6H4F3N
reactant | bis(2-chloroethyl)amine hydrochloride | 6.4 g | Cl.ClCCNCCCl
reactant | sodium carbonate | 3.8 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium hydroxide | 8.9 ml, 3.6 g | [OH-].[Na+]
solvent | water | 4.2 ml | O | H2O
solvent | water | 8.9 ml | O | H2O
solvent | methanol | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-(2,4,6-Trifluorophenyl)piperazine Dihydrochloride | 0.61 g | Cl.Cl.FC1=C(C(=CC(=C1)F)F)N1CCNCC1 | InChI=1S/C10H11F3N2.2ClH/c11-7-5-8(12)10(9(13)6-7)15-3-1-14-2-4-15;;/h5-6,14H,1-4H2;2*1H
